US07253286B2
N6-Methoxy-7-benzyloxy-4-chloro-6-quinolinecarboxamide
After adding thionyl chloride (10 ml) and a catalytic amount of dimethylformamide to phenyl 7-benzyloxy-4-oxo-1,4-dihydro-6-quinolinecarboxylate (2.32 g, 6.25 mmol), the mixture was heated to reflux for 2 hours while stirring. The reaction solution was concentrated under reduced pressure and azeotropically distilled twice with toluene, the residue was dissolved in a dimethylformamide (20 ml) and triethylamine (20 ml) mixed solvent, methoxylamine hydrochloride (10.4 g, 125 mmol) was added thereto while cooling in an ice water bath, and the mixture was stirred at room temperature for 18 hours. The reaction solution was distributed between ethyl acetate and water, and then the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. After distilling off the solvent, it was subjected to silica gel column chromatography, the target fraction was concentrated under reduced pressure, the obtained crude product was suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (392 mg, 1.14 mmol, 18%) as white crystals.

reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | phenyl 7-benzyloxy-4-oxo-1,4-dihydro-6-quinolinecarboxylate | 6.25 mmol, 2.32 g | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)C(=O)OC1=CC=CC=C1 | C23H17NO4
reactant | methoxylamine hydrochloride | 125 mmol, 10.4 g | Cl.O(C)N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | N6-Methoxy-7-benzyloxy-4-chloro-6-quinolinecarboxamide | 1.14 mmol, 392 mg, 18% | CONC(=O)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)Cl | C18H15ClN2O3
